US06495581B1
A mixture of benzonitrile (26.2 g), hydroxylamine hydrochloride (17.7 g), potassium carbonate (17.6 g) and 70% ethanol (250 ml) was stirred at 80° C. for 2 hours. The reaction mixture was cooled to room temperature, water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was dissolve in acetone (250 ml) and potassium carbonate (19.0 g) was added. This mixture was cooled to 0° C. and chloroacetyl chloride (21.9 ml) was added dropwise. After stirring for 1 hour, the reaction mixture was concentrated. Water was added to the residue, the residual crystals were filtered, washed with water and dissolved in ethyl acetate. This solution was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was dissolved in xylene (250 ml), and refluxed with separating water. After 2 hours, the solution was concentrated and the remaining crystals were washed with hexane to obtain 5-(chloromethyl)-3-phenyl-1,2,4-oxadiazole (25.2 g, yield 51%) as pale-yellow crystals. m.p. 38-39° C.

reactant | benzonitrile | 26.2 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | hydroxylamine hydrochloride | 17.7 g | Cl.NO
reactant | potassium carbonate | 17.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-(chloromethyl)-3-phenyl-1,2,4-oxadiazole | 25.2 g, yield 51% | ClCC1=NC(=NO1)C1=CC=CC=C1 | C9H7ClN2O
